US07674822B2
Cyclohexanemethyamine (29 μl, 0.22 mmol) was added to a mixture of 1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2,6-dicarboxylic acid 2-methyl ester (42 mg, 0.11 mmol), HATU (49 mg, 0.13 mmol), and Et3N (50 1) in DMF (0.5 ml). The mixture was stirred for 2 days. Addition of EtOAc, washing with water, drying organic layers over MgSO4, filtration, and reoval of solvent in vacuo left crude material. Purification by column chromatography yielded 30 mg (58%) of 6-(cyclohexylmethylcarbamoyl)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester.

reactant | Cyclohexanemethyamine | 0.22 mmol, 29 μl | C1(CCCCC1)CN | C7H15N
reactant | 1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2,6-dicarboxylic acid 2-methyl ester | 0.11 mmol, 42 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(=O)O)S1)OCC(=O)OCC | C17H14O7S2
reactant | HATU | 0.13 mmol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(cyclohexylmethylcarbamoyl)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 30 mg, 58% | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(NCC2CCCCC2)=O)S1)OCC(=O)OCC | C24H27NO6S2
